US05864039
Tin chloride (8.18 g) and 6-bromohexanoic acid were stirred at 120° C. Thereto was added resorcinol (5.50 g), and the resulting mixture was stirred for 20 min. The reaction mixture was poured into ice-water and the mixture was extracted with ethyl acetate ester. The organic layer was washed with brine and dried, followed by evaporation of the solvent under reduced pressure. The residue was purified by silica gel chromatography (chloroform:methanol=30:1) to give 3.70 g of 6-bromo-1-(2,4-dihydroxyphenyl)-1-hexanone.

reactant | Tin chloride | 8.18 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 6-bromohexanoic acid | BrCCCCCC(=O)O | C6H11BrO2
reactant | resorcinol | 5.50 g | C1(O)=CC(O)=CC=C1 | C6H6O2
product | 6-bromo-1-(2,4-dihydroxyphenyl)-1-hexanone | 3.70 g | BrCCCCCC(=O)C1=C(C=C(C=C1)O)O | C12H15BrO3
